US05166203
Preparation of 2-benzoyloxymethylmorpholine hydrochloride
10% Palladium-carbon (40 g) and 4-benzyl-2-benzoyloxymethylmorpholine hydrochloride (202 g) are added to a mixture of ethanol (600 ml) and water (200 ml), and the mixture is stirred under hydrogen pressure of 10 kg/cm2 at 40° C. for 5 hours. Palladium-carbon is filtered off, and the solvent is distilled off under reduced pressure. To the residue is added ethanol, and the mixture is distilled under reduced pressure. This procedure is repeated three times. The resulting crystals are washed with ether and recrystallized from chloroform-ethanol to give the title compound (91 g) as colorless crystals.

reactant | 4-benzyl-2-benzoyloxymethylmorpholine hydrochloride | 202 g | Cl.C(C1=CC=CC=C1)N1CC(OCC1)COC(C1=CC=CC=C1)=O
reactant | ethanol | 600 ml | C(C)O | C2H6O
catalyst | Palladium-carbon | 40 g | [C].[Pd]
solvent | water | 200 ml | O | H2O
product | 2-benzoyloxymethylmorpholine hydrochloride | 91 g | Cl.C(C1=CC=CC=C1)(=O)OCC1CNCCO1 | InChI=1S/C12H15NO3.ClH/c14-12(10-4-2-1-3-5-10)16-9-11-8-13-6-7-15-11;/h1-5,11,13H,6-9H2;1H
